US05489598
A mixture of 3.0 g (12.6 mmol) of 1-(4-aminobenzoyl)-4-ethylthiosemicarbazide and 4.8 mL of 2N sodium hydroxide in 38 mL of water was heated at reflux for 2 hours. The reaction mixture was cooled to 24° C. and diluted with glacial acetic acid to pH=3. The precipitate which formed was collected by filtration and washed with ethyl acetate:methanol (1:1 v/v) to provide 2.28 g (82%) of 5-(4-aminophenyl)-4-ethyl-2,4-dihydro-[1,2,4]triazol-3-thione, mp 240°-250° C.

reactant | 1-(4-aminobenzoyl)-4-ethylthiosemicarbazide | 12.6 mmol, 3.0 g | NC1=CC=C(C(=O)NNC(=S)NCC)C=C1 | C10H14N4OS
reactant | sodium hydroxide | 2N, 4.8 mL | [OH-].[Na+]
solvent | water | 38 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-aminophenyl)-4-ethyl-2,4-dihydro-[1,2,4]triazol-3-thione | 2.28 g, 82% | NC1=CC=C(C=C1)C=1N(C(NN1)=S)CC | C10H12N4S
